US06469003B1
To a solution of 6-acetyl-2-(3-chlorophenyl)-5-methyl-4-phenylthio-3(2H)-pyridazinone (0.37 g) in 1,2-dichloroethane (10 ml) was added m-chloroperbenzoic acid (0.65 g), followed by stirring at room temperature for 12 hours. An aqueous solution of sodium thiosulfate was added to the reaction mixture to decompose excess oxidizing agent, and then the mixture was extracted with chloroform. After washing with a saturated aqueous sodium hydrogen carbonate solution and a brine, the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by evaporation, and the resulting residue was allowed to stand at room temperature to obtain crystalline 6-acetyl-2-(3-chlorophenyl)-5-methyl-4-phenylsulfonyl-3(2H)-pyridazinone (0.38 g) (Compound No. 1-83).

reactant | 6-acetyl-2-(3-chlorophenyl)-5-methyl-4-phenylthio-3(2H)-pyridazinone | 0.37 g | C(C)(=O)C=1C(=C(C(N(N1)C1=CC(=CC=C1)Cl)=O)SC1=CC=CC=C1)C | C19H15ClN2O2S
reactant | m-chloroperbenzoic acid | 0.65 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 6-acetyl-2-(3-chlorophenyl)-5-methyl-4-phenylsulfonyl-3(2H)-pyridazinone | 0.38 g | C(C)(=O)C=1C(=C(C(N(N1)C1=CC(=CC=C1)Cl)=O)S(=O)(=O)C1=CC=CC=C1)C | C19H15ClN2O4S
